US09402914B2
Charged a solution of N,N-dibenzyl-2-(1,3-bis(benzyloxy)propan-2-yloxy)ethanamine (2000 g, 4.0 mol, 1.0 eq) in EtOH (10000 mL, 5.0 v), Pd/C (10%, 400 g, 20% wt) and acetic acid (970 g, 16.2 mol, 4.0 eq) to a 20 L pressure reactor. The resulting mixture was stirred for 10 hours at 80° C. under hydrogen (20 atm). The reaction progress was monitored with NMR. The reaction mixture was cooled to 20˜30° C. and filtered. HCl (36%, 500 ml, 6.0 mol, 1.5 eq) was added to the filtrate, stirred for 10 minutes and concentrated under vacuum to give 572 g (83.4%) of 2-(2-aminoethoxyl)propane-1,3-diol hydrochloride as an oil. H-NMR of 3 (300 MHz, D2O, ppm): 3.79 (2H, q), 3.60 (2H, m), 3.50 (3H, m), 3.15 (2H, q).

reactant | N,N-dibenzyl-2-(1,3-bis(benzyloxy)propan-2-yloxy)ethanamine | 4.0 mol, 2000 g, 1.0 eq | C(C1=CC=CC=C1)N(CCOC(COCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=CC=C1 | C33H37NO3
reactant | acetic acid | 16.2 mol, 970 g, 4.0 eq | C(C)(=O)O | C2H4O2
reactant | HCl | 6.0 mol, 500 ml, 1.5 eq | Cl | ClH
solvent | EtOH | 10000 mL | CCO | C2H6O
catalyst | Pd/C | 400 g | [Pd] | Pd
product | 2-(2-aminoethoxyl)propane-1,3-diol hydrochloride | 572 g, 83.4% | Cl.NCCOC(CO)CO | InChI=1S/C5H13NO3.ClH/c6-1-2-9-5(3-7)4-8;/h5,7-8H,1-4,6H2;1H
